US06949579B2
N-[6-(3-pyridyl)-1-[[2-(trimethylsilyl)ethoxy]methyl]-1H-indazol-3-yl]butanamide
900 mg of diethyl-3-pyridylborane, 1.86 g of caesium fluoride, 18.4 mg of palladium acetate and finally 48 mg of 2-dicyclohexylphosphine-2-(N,N-dimethylamino)biphenyl are added to 1.5 g of N-[6-chloro-1-[[2(trimethylsilyl)ethoxy]methyl]-1H-indazol-3-yl]butanamide, described previously, in 40 cm3 of dioxane. The mixture is then heated at about 100° C. for 17 hours and then filtered through a sinter funnel and evaporated under reduced pressure (2 kPa; 50° C.). The residue is taken up in 75 cm3 of ethyl acetate and 50 cm3 of distilled water. The organic phase is washed again with 50 cm3 of distilled water and with 50 cm3 of saturated aqueous sodium chloride solution. The organic phase is dried over magnesium sulphate, filtered through a sinter funnel and then evaporated under reduced pressure under the conditions described previously. The residue is purified by chromatography under an argon pressure of 50 kPa, on a column of silica gel (particle size 40-60 μm; diameter 2.5 cm), eluting with a cyclohexane/ethyl acetate mixture (50/50 by volume) and collecting 25 cm3 fractions. The fractions containing the expected product are combined and evaporated under reduced pressure (2 kPa; 50° C.). After drying (90 Pa; 50° C.), 900 mg of N-[6-(3-pyridyl)-1-[[2-(trimethylsilyl)ethoxy]methyl]-1H-indazol-3-yl]butanamide are thus obtained in the form of a yellow oil.

reactant | diethyl-3-pyridylborane | 900 mg | C(C)B(C=1C=NC=CC1)CC | C9H14BN
reactant | caesium fluoride | 1.86 g | [F-].[Cs+]
reactant | N-[6-chloro-1-[[2(trimethylsilyl)ethoxy]methyl]-1H-indazol-3-yl]butanamide | 1.5 g | ClC1=CC=C2C(=NN(C2=C1)COCC[Si](C)(C)C)NC(CCC)=O | C17H26ClN3O2Si
solvent | dioxane | 40 cm3 | O1CCOCC1 | C4H8O2
catalyst | palladium acetate | 18.4 mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
product | N-[6-(3-pyridyl)-1-[[2-(trimethylsilyl)ethoxy]methyl]-1H-indazol-3-yl]butanamide | N1=CC(=CC=C1)C1=CC=C2C(=NN(C2=C1)COCC[Si](C)(C)C)NC(CCC)=O | C22H30N4O2Si
